US05459152
Step 2. Preparation of 3-(Pyridin-3-yl)-7-[1-(2-carboxyethyl)-6-(4-fluorophenyl)indol-3-ylcarbonyl]-1H,3H-pyrrolo[1,2-c]thiazole
A mixture of 3-(pyridin-3-yl)-7-[1-(2-carboethoxyethyl)-6-(4-fluorophenyl)indol-3-ylcarbonyl]-1H,3H--pyrrolo[1,2-c]thiazole (90 mg, 0.17 mmol), and lithium hydroxide (11 mg), where stirred in 33% aqueous THF (15 mL) for 45 min. The reaction mixture was diluted with H2O and taken to pH 4 with 1M aqueous HCl. The reaction mixture was extracted three times with ethyl acetate. The combined organic layers where dried over MgSO4, filtered,and concentrated in vacuo. 3-(Pyridin-3-yl)-7-[1-(2-carboxyethyl)-6-(4-fluorophenyl)indol-3-ylcarbonyl]-1H,3H-pyrrolo[1,2-c]thiazole (63 mg), was crystallized from ethyl acetate, hexanes. 1H NMR (CDCl3, 300MHz) δ2.95 (t, 2H, J=6, 7 Hz), 4.5-4.65 (m, 4H), 6.14 (d, 1H, J=3 Hz), 6.45 (s, 1H), 6.73 (d, 1H, J=3 Hz), 7.15 (t, 2H, J=9, 11Hz), 7.38-7.43 (m, 1H), 7.52 (d, 2H, J=8 Hz), 7.6-7.7 (m, 3H), 8.05 (s, 1H), 8.46 (d, 1H, J=9 Hz), 8.57 (bs, 2H), MS (DCI/NH3) m/e 512 (M+H)+. Anal calcd for C29H22N3O3SF; C, 68.09; H, 4.33; N, 8.21. Found: C, 67.78; H, 3.90; N, 8.06.

reactant | 3-(pyridin-3-yl)-7-[1-(2-carboethoxyethyl)-6-(4-fluorophenyl)indol-3-ylcarbonyl]-1H,3H--pyrrolo[1,2-c]thiazole | 0.17 mmol, 90 mg | N1=CC(=CC=C1)C1SCC=2N1C=CC2C(=O)C2=CN(C1=CC(=CC=C21)C2=CC=C(C=C2)F)CCC(=O)OCC | C31H26FN3O3S
reactant | lithium hydroxide | 11 mg | [OH-].[Li+]
reactant | HCl | 1M | Cl | ClH
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | 3-(Pyridin-3-yl)-7-[1-(2-carboxyethyl)-6-(4-fluorophenyl)indol-3-ylcarbonyl]-1H,3H-pyrrolo[1,2-c]thiazole | N1=CC(=CC=C1)C1SCC=2N1C=CC2C(=O)C2=CN(C1=CC(=CC=C21)C2=CC=C(C=C2)F)CCC(=O)O | C29H22FN3O3S
